US05663053
A solution of 1,4,5-triphenyl-2-(7-bromoheptyloxy)-imidazole (1.75 g) and diethyl methylphosphonite (2.45 g) in toluene (10 ml) was heated at reflux temperature for 48 hours. Methanol and water were added and the mixture evaporated to an oil. This was chromatographed on silica gel (ethyl acetate/ethanol). The resulting oil slowly crystallised and was triturated with ether/petroleum ether, filtered then recrystallised from ethanol/ether to give ethyl 7-(1,4,5-triphenyl-imidazol-2-yloxy)heptane-methylphosphinate (1.06 g, 57%) as a white solid, m.p. 101°-2° C. Found: C, 72.05; H, 7.26; N, 5.52%; C31H37N2O3P; Requires: C, 72.07; H, 7.22; N, 5.42%.

reactant | 1,4,5-triphenyl-2-(7-bromoheptyloxy)-imidazole | 1.75 g | C1(=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)OCCCCCCCBr | C28H29BrN2O
reactant | diethyl methylphosphonite | 2.45 g | CP(OCC)OCC | C5H13O2P
reactant | Methanol | CO | CH4O
reactant | water | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 7-(1,4,5-triphenyl-imidazol-2-yloxy)heptane methylphosphinate | 1.06 g, 57% | C(C)CCCCCCCOC=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1.CP([O-])=O | InChI=1S/C30H34N2O.CH5O2P/c1-2-3-4-5-6-7-17-24-33-30-31-28(25-18-11-8-12-19-25)29(26-20-13-9-14-21-26)32(30)27-22-15-10-16-23-27;1-4(2)3/h8-16,18-23H,2-7,17,24H2,1H3;4H,1H3,(H,2,3)/p-1
